US04471138
Preparation of tertiarybutylaminoethoxyethanol (TBEE)
A solution of 45.63 g (0.625 mole) of tertiarybutylamine and 31 g (0.25 mole) of 2-chloroethoxyethanol in 100 ml of methanol was charged to a 300 ml steel autoclave and heated under autogeneous pressure for 1 hour at 150° C. The reactor was cooled and the contents removed. To the homogeneous solution was added 11 g (0.275 mole) of NaOH pellets and the reaction refluxed for 0.5-1 hour, cooled, filtered, vacuum stripped, and distilled. The yield was 31.4 g (78%).

reactant | tertiarybutylamine | 0.625 mole, 45.63 g | C(C)(C)(C)N | C4H11N
reactant | 2-chloroethoxyethanol | 0.25 mole, 31 g | ClCCOC(C)O | C4H9ClO2
reactant | NaOH | 0.275 mole, 11 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | tertiarybutylaminoethoxyethanol | C(C)(C)(C)NCCOC(C)O | C8H19NO2
